US05204366
Preparation of DL-2,5-Dioxo-α-methyl-2',4'-dichloro-3-pyrroline-1-acetanilide
A suspension of DL-2,5-dioxo-α-methyl-3-pyrroline-1-acetic acid (1.5 g, 0.0086 mol) in toluene is treated with thionyl chloride (1.28 mL, 0.0176 mol), warmed to 50° C., stirred for 2 1/2 hours, cooled and concentrated in vacuo to yield a yellow oil. The oil is dissolved in methylene chloride and added to a solution of 2,4-dichloroaniline (1.54 g, 0.0086 mol) and triethylamine (1.32 mL, 0.0094 mol) in methylene chloride under nitrogen at 0° C. The reaction mixture is stirred for 1 hour at room temperature and concentrated in vacuo to give a residue. The residue is flash chromatographed using hexane/ethyl acetate (80/20) as eluent on silica gel to give the title compound as a pale yellow solid (0.94 g, 35%, mp 131° C.), identified by 1HNMR, CIMS and IR analysis.

reactant | 2,5-dioxo-α-methyl-3-pyrroline-1-acetic acid | 0.0086 mol, 1.5 g | O=C1N(C(C=C1)=O)C(C(=O)O)C | C7H7NO4
reactant | thionyl chloride | 0.0176 mol, 1.28 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2,4-dichloroaniline | 0.0086 mol, 1.54 g | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | triethylamine | 0.0094 mol, 1.32 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,5-Dioxo-α-methyl-2',4'-dichloro-3-pyrroline-1-acetanilide | 0.94 g, 35% | O=C1N(C(C=C1)=O)C(C(=O)NC1=C(C=C(C=C1)Cl)Cl)C | C13H10Cl2N2O3
